simulator lang=spectre
global 0

ahdl_include "../submission/hysteretic_comparator_receiver.va"

Vinp (inp 0) vsource type=pwl wave=[0 0.425 1.0n 0.425 1.2n 0.480 2.0n 0.480 2.2n 0.445 3.0n 0.445 3.2n 0.420 4.0n 0.420 4.2n 0.482 5.0n 0.482 5.2n 0.445 6.0n 0.445 6.2n 0.418 7.0n 0.418]
Vinm (inm 0) vsource dc=0.45
XDUT (inp inm out) hysteretic_comparator_receiver

tran tran stop=7.0n maxstep=10p
save inm inp out
